US08557992B2
To a solution of 1,5-anhydro-3-(5-bromo-7-oxo-1,8-phenanthrolin-8(7H)-yl)-2,3-dideoxy-L-threo-pentitol (0.080 g, 0.21 mmol) in a mixture of 4 mL of 1,2-dimethoxyethane and 0.030 mL of water under an atmosphere of nitrogen was added potassium acetate (0.084 g, 0.85 mmol), bis(pinacolato)diboron (0.068 g, 0.27 mmol), and [1,1′-bis(diphenylphosphino)-ferrocene]dichloro-palladium(II), 1:1 complex with dichloromethane (0.017 g, 0.021 mmol). The reaction was heated to 100° C. for 15 h, cooled to rt, and diluted with dichloromethane and water. The mixture was filtered through celite and the filtrate was partitioned. The organic fraction was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-10% methanol in dichloromethane, to provide 1,5-anhydro-2,3-dideoxy-3-[7-oxo-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,8-phenanthroline-8(7H)-yl]-threo-pentitol that gave a mass ion (ES+) of 423.3 for [M+H]+.

reactant | 1,5-anhydro-3-(5-bromo-7-oxo-1,8-phenanthrolin-8(7H)-yl)-2,3-dideoxy-L-threo-pentitol | 0.21 mmol, 0.080 g | BrC1=C2C=CC=NC2=C2C=CN(C(C2=C1)=O)[C@H]1CCOC[C@@H]1O | C17H15BrN2O3
reactant | potassium acetate | 0.85 mmol, 0.084 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 0.27 mmol, 0.068 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
solvent | water | 0.030 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 0.021 mmol, 0.017 g | ClCCl | CH2Cl2
product | 1,5-anhydro-2,3-dideoxy-3-[7-oxo-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,8-phenanthroline-8(7H)-yl]-threo-pentitol | O=C1C2=CC(=C3C=CC=NC3=C2C=CN1[C@@H]1CCOC[C@H]1O)B1OC(C(O1)(C)C)(C)C | C23H27BN2O5
